US06756378B2
To a stirred mixture of 6-tert-butoxycarbonylnicotinic acid (1.9 g, 8.51 mmol) and triethylamine (1.17 g, 11.49 mmol) in tert-BuOH (30 ml) and toluene (30 ml) was added a solution of diphenyl phosphoryl azide (2.93 g, 10.64 mmol) in toluene (3 ml) at room temperature. The resulting mixture was then heated at reflux for 5 hr. After cooling, ice and 1N HCl (5 ml) was added to the mixture and extracted with toluene. The extracts were washed with brine, dried over Na2SO4, and evaporated. The residue was chromatographed on silica gel (50 ml) with toluene-EtOAc (5:1, v/v) as eluent to give tert-butyl 5-tert-butoxycarbonylamino-2-pyridinecarboxylate (1.9 g, 76%) as a gum. 1H-NMR (CDCl3) δ1.53 (s, 9 H), 1.63 (s, 9 H), 6.82 (br s, 1 H), 8.01 (d, J=8.8 Hz, 1 H), 8.17 (m, 1 H), 8.46 (d, J=2.4 Hz, 1 H).

reactant | 6-tert-butoxycarbonylnicotinic acid | 8.51 mmol, 1.9 g | C(C)(C)(C)OC(=O)C1=NC=C(C(=O)O)C=C1 | C11H13NO4
reactant | triethylamine | 11.49 mmol, 1.17 g | C(C)N(CC)CC | C6H15N
reactant | diphenyl phosphoryl azide | 10.64 mmol, 2.93 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | HCl | 1N, 5 ml | Cl | ClH
reactant | tert-BuOH | 30 ml | C(C)(C)(C)O | C4H10O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 5-tert-butoxycarbonylamino-2-pyridinecarboxylate | 1.9 g, 76% | C(C)(C)(C)OC(=O)NC=1C=CC(=NC1)C(=O)OC(C)(C)C | C15H22N2O4
